US07109354B2
To a cooled (ice bath) solution of 4-bromo-5-nitrothiophene-2-carboxylic acid methyl ester (0.5 g, 1.88 mmol) from above step c, in dimethylformamide (DMF) was added 3-methoxybenzenethiol (0.29 g, 2.1 mmol) and Cs2CO3 (0.67 g, 2.1 mmol). The resulting mixture was heated at 50° C. for 3 h. DMF was removed under vacuum and the residue was partitioned between EtOAc and 10% HCl. The EtOAc layer was washed with brine, dried over Na2SO4 and concentrated in vacuo to give an oil. This oil was purified by silica gel column chromatography (EtOAc:hexane) to give 0.56 g (91%) of 4-(3-Methoxy-phenylsulfanyl)-5-nitro-thiophene-2-carboxylic acid methyl ester. This ester was dissolved in CH2Cl2 (6 mL) and treated with m-chloroperoxybenzoic acid (MCPBA, 1.1 g) and heated at reflux for 6 h. The resulting mixture was diluted with CH2Cl2 (10 mL) and washed with sat. sodium thiosulfate, 1N NaOH and brine. The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc:hexane) to give an oil. This oil was dissolved in DMF (5 mL) and cooled in an ice bath. To this solution sodium thiomethoxide (126 mg, Aldrich Chemical Company) was added and the mixture was stirred for 5 h. The reaction was quenched with 10% HCl and the solvents were removed in vacuo. The residue was dissolved in EtOAc, washed with brine and dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by preparative thin-layer chromatography to give 171 mg of 4-(3-methoxy-benzenesulfonyl)-5-methylsulfanyl-thiophene-2-carboxylic acid methyl ester, which was directly used in the next step.

reactant | 4-bromo-5-nitrothiophene-2-carboxylic acid methyl ester | 1.88 mmol, 0.5 g | COC(=O)C=1SC(=C(C1)Br)[N+](=O)[O-] | C6H4BrNO4S
reactant | 3-methoxybenzenethiol | 2.1 mmol, 0.29 g | COC=1C=C(C=CC1)S | C7H8OS
reactant | Cs2CO3 | 2.1 mmol, 0.67 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(3-Methoxy-phenylsulfanyl)-5-nitro-thiophene-2-carboxylic acid methyl ester | 0.56 g, 91% | COC(=O)C=1SC(=C(C1)SC1=CC(=CC=C1)OC)[N+](=O)[O-] | C13H11NO5S2
